US04183741
2-(2-Pyridyl)-7-methyl-s-triazolo[1,5-a]pyridine (10 g) was added to chloroacetone (30 ml) and the mixture was refluxed for 2 hours. The mixture was cooled, and ether (100 ml) was added. The solid was filtered off, washed with ether, and dried in vacuo to give 1-acetonyl-2-(7-methyl-s-triazolo[1,5-a]pyridin-2-yl)pyridinium chloride. The product was then added to phosphorus trichloride (25 ml) and refluxed for 30 minutes, then cooled, and ether (100 ml) was added. The solid was filtered off, washed with ether, and dried in vacuo, to give 6.8 g of 7,10-dimethyl-pyrido[1,2-a]pyrido[1',2'-1,5]-s-triazolo[3,4-c]pyrazinedium dichloride, mp 186°-188° C.

reactant | 2-(2-Pyridyl)-7-methyl-s-triazolo[1,5-a]pyridine | 10 g | N1=C(C=CC=C1)C1=NN2C(C=C(C=C2)C)=N1 | C12H10N4
reactant | chloroacetone | 30 ml | ClCC(C)=O | C3H5ClO
solvent | ether | 100 ml | CCOCC | C4H10O
product | 1-acetonyl-2-(7-methyl-s-triazolo[1,5-a]pyridin-2-yl)pyridinium chloride | [Cl-].C(C(=O)C)[N+]1=C(C=CC=C1)C1=NN2C(C=C(C=C2)C)=N1 | InChI=1S/C15H15N4O.ClH/c1-11-6-8-19-14(9-11)16-15(17-19)13-5-3-4-7-18(13)10-12(2)20;/h3-9H,10H2,1-2H3;1H/q+1;/p-1
